US07772268B2
6-Chloro-4-methyl-1-(4-methylpiperidine-1-carbonyl)-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate
In analogy to example 1, 1.2 g (6.54 mmol) of 6-chloro-4-methyl-1H-pyrazolo-[3,4-b]pyridin-3-ol were reacted with 1.29 g (7.98 mmol) of 4-methylpiperidine-1-carbonyl chloride. Yield: 238 mg (8%), M+H+: 434.27.

reactant | 6-chloro-4-methyl-1H-pyrazolo-[3,4-b]pyridin-3-ol | 6.54 mmol, 1.2 g | ClC1=CC(=C2C(=N1)NN=C2O)C | C7H6ClN3O
reactant | 4-methylpiperidine-1-carbonyl chloride | 7.98 mmol, 1.29 g | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
product | 6-Chloro-4-methyl-1-(4-methylpiperidine-1-carbonyl)-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate | CC1CCN(CC1)C(=O)OC1=NN(C2=NC(=CC(=C21)C)Cl)C(=O)N2CCC(CC2)C | C21H28ClN5O3
